US07094801B2
4-{3E-[2,4-Dimethoxy-5-(2-methyl-thiazol-4-yl)-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-(2-methyl-thiazol-4-yl)-benzaldehyde (Ex-69A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 201–202° C. (dec.). 1H-NMR (DMSO-d6) δ 8.47 (s, 1H), 8.14–7.97 (m, 5H), 7.76 (s, 1H), 7.65 (d, J=15.8 Hz, 1H), 6.81 (s, 1H), 4.00 (s, 3H), 3.98 (s, 3H), 2.69 (s, 3H). MS m/z=409 (M+, 70%), 378 ([M−OCH3]+, 100%).

reactant | 2,4-dimethoxy-5-(2-methyl-thiazol-4-yl)-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N=C(SC1)C | C13H13NO3S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[2,4-Dimethoxy-5-(2-methyl-thiazol-4-yl)-phenyl]-acryloyl}-benzoic acid | COC1=C(C=C(C(=C1)OC)C=1N=C(SC1)C)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H19NO5S
